*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM4520-142-2P (Common Mode Filter)
* Property: |Zc|=1400ohm Typ. at 100MHz
* Size(LxWxT): 4.7x4.5x2mm, 0.185x0.177x0.079inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM4520_142_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 4.81856891E-13
C22 22 32 4.81856891E-13
C41 12 22 4.06775179E-12
C42 32 42 4.06775179E-12
K11 L21 L22 9.99999999E-01
L11 11 12 7.87179546E-09
L12 21 22 7.87179546E-09
L13 31 32 7.87179546E-09
L14 41 42 7.87179546E-09
L21 12 42 2.98403117E-06
L22 22 32 2.98403117E-06
R11 11 12 2.95437911E+02
R12 21 22 2.95437911E+02
R13 31 32 2.95437911E+02
R14 41 42 2.95437911E+02
R21 12 42 2.10478566E+03
R22 22 32 2.10478566E+03
R31 n1 11 2.25000000E-02
R32 n2 21 2.25000000E-02
R33 n3 31 2.25000000E-02
R34 n4 41 2.25000000E-02
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM4520_142_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM4520-231-2P (Common Mode Filter)
* Property: |Zc|=230ohm Typ. at 100MHz
* Size(LxWxT): 4.7x4.5x2mm, 0.185x0.177x0.079inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM4520_231_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 1.63860964E-13
C22 22 32 1.63860964E-13
C41 12 22 1.80869452E-12
C42 32 42 1.80869452E-12
K11 L21 L22 9.99999999E-01
L11 11 12 1.29128957E-08
L12 21 22 1.29128957E-08
L13 31 32 1.29128957E-08
L14 41 42 1.29128957E-08
L21 12 42 5.45278682E-07
L22 22 32 5.45278682E-07
R11 11 12 9.13754211E+01
R12 21 22 9.13754211E+01
R13 31 32 9.13754211E+01
R14 41 42 9.13754211E+01
R21 12 42 9.34627121E+02
R22 22 32 9.34627121E+02
R31 n1 11 1.75000000E-02
R32 n2 21 1.75000000E-02
R33 n3 31 1.75000000E-02
R34 n4 41 1.75000000E-02
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM4520_231_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM4520-421-2P (Common Mode Filter)
* Property: |Zc|=420ohm Typ. at 100MHz
* Size(LxWxT): 4.7x4.5x2mm, 0.185x0.177x0.079inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM4520_421_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 4.64102737E-13
C22 22 32 4.64102737E-13
C41 12 22 2.62633832E-12
C42 32 42 2.62633832E-12
K11 L21 L22 9.99999999E-01
L11 11 12 1.80991458E-08
L12 21 22 1.80991458E-08
L13 31 32 1.80991458E-08
L14 41 42 1.80991458E-08
L21 12 42 1.05272583E-06
L22 22 32 1.05272583E-06
R11 11 12 8.18305473E+01
R12 21 22 8.18305473E+01
R13 31 32 8.18305473E+01
R14 41 42 8.18305473E+01
R21 12 42 1.00868718E+03
R22 22 32 1.00868718E+03
R31 n1 11 1.92500000E-02
R32 n2 21 1.92500000E-02
R33 n3 31 1.92500000E-02
R34 n4 41 1.92500000E-02
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM4520_421_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM4520-901-2P (Common Mode Filter)
* Property: |Zc|=900ohm Typ. at 100MHz
* Size(LxWxT): 4.7x4.5x2mm, 0.185x0.177x0.079inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM4520_901_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 4.52137528E-13
C22 22 32 4.52137528E-13
C41 12 22 3.49339654E-12
C42 32 42 3.49339654E-12
K11 L21 L22 9.99999999E-01
L11 11 12 1.01682546E-08
L12 21 22 1.01682546E-08
L13 31 32 1.01682546E-08
L14 41 42 1.01682546E-08
L21 12 42 1.80919218E-06
L22 22 32 1.80919218E-06
R11 11 12 9.08849494E+00
R12 21 22 9.08849494E+00
R13 31 32 9.08849494E+00
R14 41 42 9.08849494E+00
R21 12 42 1.45872532E+03
R22 22 32 1.45872532E+03
R31 n1 11 1.75000000E-02
R32 n2 21 1.75000000E-02
R33 n3 31 1.75000000E-02
R34 n4 41 1.75000000E-02
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACM4520_901_2P_s
*----------------------------------------------------------------------
